US05811439
There were dissolved, in 20 ml of acetonitrile, 2.00 g of indole-4-carbaldehyde and 5.20 g of 4-fluorobenzyl bromide, followed by addition of 9.52 g of potassium carbonate and stirring for 16 hours while heating the reaction mixture to 52° C. The reaction solution was cooled down to room temperature, followed by removal of potassium carbonate through filtration and removal of the solvent through evaporation under reduced pressure. The resulting crude product was purified by silica gel chromatography (hexane:ethyl acetate=10:1) to give a yellow oily substance. The substance was dissolved in 40 ml of ethanol, followed by addition, to the solution, of 240 mg of piperidine and 3.4 g of 2,4-thiazolidinedione and reflux of the mixture with heating over 22 hours. The reaction mixture was cooled in an ice bath followed by addition of 80 ml of diethyl ether, stirring at that temperature for one hour, then separation of the precipitated yellow crystals through filtration and washing with diethyl ether to give 3.95 g of 5-[1-(4-fluorobenzyl)indol-4-yl]methylene-2,4-thiazolidinedione as yellow crystals. The yield thereof was found to be 81%.

reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 4-fluorobenzyl bromide | 5.20 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | potassium carbonate | 9.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 240 mg | N1CCCCC1 | C5H11N
reactant | 2,4-thiazolidinedione | 3.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 5-[1-(4-fluorobenzyl)indol-4-yl]methylene-2,4-thiazolidinedione | 3.95 g | FC1=CC=C(CN2C=CC3=C(C=CC=C23)C=C2C(NC(S2)=O)=O)C=C1 | C19H13FN2O2S
